US09376441B2
Into a microwave-tube, a mixture of (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1 h-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: (100.0 mg, 0.27 mmol), 2-(tributylstannyl)pyrazine (152.0 mg, 0.91 mmol), Bis(triphenylphosphine)palladium(II) dichloride (28.9 mg, 0.04 mmol) and dioxane (8 mL). The reaction mixture was placed in the microwave reactor and heated at 130° C. for 30 min. Quenched with saturated KF, extracted with EtOAc (3×30 ml). The combined organic layers were washed with water (2×5 mL), concentrated, and purified by flash chromatography (100% EtOAc to 20% MeOH/EtOAc) to give 23.0 mg (23.0%) of (R)-4-((R)-1-((1-cyclopropyl-5-(pyrazin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, DMSO-d6) δ 9.34 (d, J=1.8 Hz, 1H), 8.69 (dd, J=1.8, 1.2 Hz, 1H), 8.56 (d, J=2.1 Hz 1H), 8.174 (s, 1H), 8.016 (d, J=0.9 Hz 1H), 7.62 (d, J=6 Hz 2H), 4.91-4.85 (m, 1H), 3.76-3.695 (m, 1H), 3.41 (t, J=9.2 Hz, 1H), 3.20 (dd, J=6.6, 6.9 Hz, 1H), 2.87-2.80 (m, 1H), 2.41-2.24 (m, 2H), 1.34 (d, J=6 Hz, 3H), 1.23-1.0 (m, 4H). LCMS-ESI+ (m/z): [M+H]+ calcd C20H21N5O2:363.17; found 364.09.

reactant | (R)-4-((R)-1-((5-bromo-1-cyclopropyl-1 h-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | BrC1=CC2=C(N(C=N2)C2CC2)C(=C1)O[C@H](C)[C@@H]1CC(NC1)=O | C16H18BrN3O2
reactant | 2-(tributylstannyl)pyrazine | 0.91 mmol, 152.0 mg | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.04 mmol, 28.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-4-((R)-1-((1-cyclopropyl-5-(pyrazin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 23.0 mg, 23.0% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=CN=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C20H21N5O2
